US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-2-isoxazol-5-yl-phenoxy)-ethylamino]-ethyl}-amide
By following a similar procedure as described in Example 34, DIBAL-H reduction of (4-bromo-2-isoxazol-5-yl-phenoxy)-acetic acid methyl ester, and subsequent reductive amination with isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide gives the free amine of the title compound as a white solid. ESIMS: m/z 517 [(M+H)+, 79Br], 519 [(M+H)+, 81Br].

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (4-bromo-2-isoxazol-5-yl-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)Br)C1=CC=NO1)=O | C12H10BrNO4
reactant | isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C11H13N3O2S
product | Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-2-isoxazol-5-yl-phenoxy)-ethylamino]-ethyl}-amide | BrC1=CC(=C(OCCNCCNS(=O)(=O)C=2C=3C=CN=CC3C=CC2)C=C1)C1=CC=NO1 | C22H21BrN4O4S
